US09334286B2
Preparation 148: 2-Methyl-1-(2-methyl-1H-imidazol-1-yl)propan-2-ol
The title compound was prepared according to the method described for Preparation 146 using 2-methyl-1H-imidazole and 2,2-dimethyloxirane.

reactant | 2-methyl-1H-imidazole | CC=1NC=CN1 | C4H6N2
reactant | 2,2-dimethyloxirane | CC1(OC1)C | C4H8O
product | 2-Methyl-1-(2-methyl-1H-imidazol-1-yl)propan-2-ol | CC(CN1C(=NC=C1)C)(C)O | C8H14N2O
